US06562828B1
2-[4-(1-tert-Butoxycarbonylpiperidin-4-yloxy)phenoxymethyl]-5-cyano-1-phenacylbenzimidazole
To a solution of 2-[4-(1-tert-butoxycarbonylpiperidin-4-yloxy)-phenoxymethyl]-5-cyanobenzimidazole (915 mg) in dimethylformamide (15 ml) was added 60% sodium hydride (90 mg) with ice-cooling, and the mixture was stirred at the same temperature for 20 min. Phenacyl bromide (426 mg) was added and the mixture was stirred at room temperature for 15 hours. After completion of the reaction, the reaction mixture was extracted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated. The obtained residue was purified by HPLC (hexane:ethyl acetate=2:3) to give the title compound (385 mg).

reactant | 2-[4-(1-tert-butoxycarbonylpiperidin-4-yloxy)-phenoxymethyl]-5-cyanobenzimidazole | 915 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(OCC=2NC3=C(N2)C=CC(=C3)C#N)C=C1 | C25H28N4O4
reactant | sodium hydride | 90 mg | [H-].[Na+]
reactant | Phenacyl bromide | 426 mg | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[4-(1-tert-Butoxycarbonylpiperidin-4-yloxy)phenoxymethyl]-5-cyano-1-phenacylbenzimidazole | 385 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(OCC2=NC3=C(N2CC(=O)C2=CC=CC=C2)C=CC(=C3)C#N)C=C1 | C33H34N4O5
